US07968570B2
7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid
7-Methyl-1-oxo-2-(4-trifluoromethoxybenzyl)-2,3-dihydro-1H-isoindole-5-carbonitrile (103 mg, 0.30 mmol) was stirred at 100° C. in MeOH (10 mL) and 6N NaOH (10 mL) for 2.5 hours. The reaction was acidified with 1N HCl and partitioned between CH2Cl2 and water, and the organic layer was washed with brine and dried over anhydrous Na2SO4. The solvent was removed under reduced pressure to yield a white solid (69.0 mg, 64%). 1H NMR (300 MHz, CDCl3): δ 7.96 (d, 2H), 7.37 (d, 2H), 7.21 (d, 2H), 4.82 (s, 2H), 4.32 (s, 2H), 2.84 (s, 3H).

reactant | 7-Methyl-1-oxo-2-(4-trifluoromethoxybenzyl)-2,3-dihydro-1H-isoindole-5-carbonitrile | 0.30 mmol, 103 mg | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C#N | C18H13F3N2O2
reactant | NaOH | 6N, 10 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | MeOH | 10 mL | CO | CH4O
product | 7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid | 69.0 mg, 64% | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C(=O)O | C18H14F3NO4
